US08440662B2
Step 1: 2-fluoro-N,N-dimethyl-4-nitro benzamide
To a 50 mL round bottom flask, 2-fluoro-4-nitrobenzoic acid (3.0 g, 0.0162 mol) and DMF (10 mL) was added. To the same flask, TEA (4.6 mL, 0.0324 mol), dimethylamine hydrochloride (2.65 g, 0.0324 mol), HOBt (3.28 g, 0.0243 mol) and EDCI.HCl(4.62 g, 0.0243 mol) was added. The reaction mixture was stirred at room temperature for 12 h. The reaction mass was quenched with water and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure to get the title compound [2.8 g, 81%]. 1H NMR (300 MHz, CDCl3): δ 8.12 (d, J=8.4 Hz, 1H), 8.02 (d, J=8.7 Hz, 1H), 7.62 (dd, J′=8.1 Hz, J″=6.6 Hz, 1H), 3.16 (s, 3H), 2.93 (s, 3H); LC-MS (ESI): Calculated mass: 212.1; Observed mass: 213.1 (RT: 0.37 min).

reactant | 2-fluoro-4-nitrobenzoic acid | 0.0162 mol, 3.0 g | FC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4FNO4
reactant | dimethylamine hydrochloride | 0.0324 mol, 2.65 g | Cl.CNC
reactant | HOBt | 0.0243 mol, 3.28 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.0243 mol, 4.62 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-N,N-dimethyl-4-nitro benzamide | 2.8 g, 81% | FC1=C(C(=O)N(C)C)C=CC(=C1)[N+](=O)[O-] | C9H9FN2O3
